US04000275
6-(2-Dimethylaminoethyl)-4-chlorobenzimidazo[2,1-b]-quinazolin-12(6H)one is prepared with 4-chlorobenzimidazo[2,1-b]-quinazolin-12(6H)one and 2-chlorodimethylaminoethane.

reactant | 4-chlorobenzimidazo[2,1-b]-quinazolin-12(6H)one | ClC=1C=CC=C2C(N3C(=NC12)NC1=C3C=CC=C1)=O | C14H8ClN3O
reactant | 2-chlorodimethylaminoethane | ClCCN(C)C | C4H10ClN
product | 6-(2-Dimethylaminoethyl)-4-chlorobenzimidazo[2,1-b]-quinazolin-12(6H)one | CN(CCN1C2=C(C=CC=C2)N2C1=NC1=C(C=CC=C1C2=O)Cl)C | C18H17ClN4O
